US06620811B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-y)-6-propoxy-nicotinamide
From 6-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide with sodium hydride and propanol in dioxane and DMF. ES-MS m/e (%): 429 (M+H+, 100).

reactant | 6-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide | ClC1=NC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C18H17ClN4O3S
reactant | sodium hydride | [H-].[Na+]
reactant | propanol | C(CC)O | C3H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-y)-6-propoxy-nicotinamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CN=C(C=C2)OCCC)=O)N2CCOCC2 | C21H24N4O4S
